US07241785B2
A mixture of 1-benzyl-3-benzyloxy-1H-pyrazol-4-ylacetonitrile (13.0 g), 4N aqueous sodium hydroxide solution (100 ml), tetrahydrofuran (100 ml) and ethanol (100 ml) was refluxed for 3 days. After cooling, the mixture was neutralized with dilute hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. A mixture of the residue, ethyl iodide (5.2 ml), potassium carbonate (11.9 g) and N,N-dimethylformamide (100 ml) was stirred at room temperature for 3 hrs. The reaction solution was poured into water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 1-benzyl-3-benzyloxy-1H-pyrazol-4-ylacetate (14.9 g, yield 99%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | 1-benzyl-3-benzyloxy-1H-pyrazol-4-ylacetonitrile | 13.0 g | C(C1=CC=CC=C1)N1N=C(C(=C1)CC#N)OCC1=CC=CC=C1 | C19H17N3O
reactant | sodium hydroxide | 4N, 100 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 1-benzyl-3-benzyloxy-1H-pyrazol-4-ylacetate | 14.9 g, yield 99% | C(C1=CC=CC=C1)N1N=C(C(=C1)CC(=O)OCC)OCC1=CC=CC=C1 | C21H22N2O3
